US06579879B2
Step C: 6-(5-Chloro-3-methyl-benzofuran-2-sulfenyl)-2-H-pyridazin-3-one.
A mixture of 6-(5-chloro-3-methyl-benzofuran-2-sulfenyl)-pyridazine (1.6 mmol, 500 mg), conc. HCl (1 mL), and dioxane (5 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled and evaporated to dryness. Water (10 mL) was added to the residue, and the resulting white precipitate was collected and crystallized from ethanol to obtain the desired product, 6-(5-chloro-3-methyl-benzofuran-2-sulfenyl)-2-H-pyridazin-3-one (73%, 113 mg); mp >240° C.

reactant | 6-(5-chloro-3-methyl-benzofuran-2-sulfenyl)-pyridazine | 1.6 mmol, 500 mg | ClC=1C=CC2=C(C(=C(O2)SC2=CC=CN=N2)C)C1 | C13H9ClN2OS
reactant | HCl | 1 mL | Cl | ClH
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 6-(5-chloro-3-methyl-benzofuran-2-sulfenyl)-2-H-pyridazin-3-one | 113 mg, 73% | ClC=1C=CC2=C(C(=C(O2)SC=2C=CC(NN2)=O)C)C1 | C13H9ClN2O2S
